### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): API for bipartite simple graph double-counting

### PR DESCRIPTION
**Pull request by mitchell-horner**
Implement an API for bipartite double-counting arguments using simple graph definitions. Notably define the predicate `IsBipartite`: `G.IsBipartite s t` is the proposition that `G` is bipartite in sets `s`, `t`.

---

- [x] depends on: #20825 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+  `s`, `t`, that is, `s` and `t` are disjoint and vertices `v`, `w` being adjacent in `G` implies
+  that `v ∈ s` and `w ∈ t`, or `v ∈ s` and `w ∈ t`.
+
+  Note that in this implementation, if `G.IsBipartite s t`, `s ∪ t` need not cover the vertices of
+  `G`, instead `s ∪ t` is only required to cover the *support* of `G`, that is, the vertices that
+  form edges in `G`. This definition is equivalent to the expected definition. If `s` and `t` do
+  not cover all the vertices, one recovers a covering of all the vertices by unioning the missing
+  vertices `(s ∪ t)ᶜ` to either `s` or `t`.
+
+* `SimpleGraph.isBipartite_sum_degrees_eq` is the proof that if `G.IsBipartite s t`, then the sum
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:26]: It looks like there's quite a bit of overlap between this and the material in DoubleCounting.lean

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:26]: I agree. 

I use the material in DoubleCounting.lean throughout this file to do the heavy lifting. I don't intend on reinventing the material in DoubleCounting.lean, rather rephrasing some of it in graph terms.

This file grew out of golfing my proof of the Erdős-Stone theorem; having the statements explicitly in graph terms saved space working with inequalities and more closely followed the pen-and-paper proof.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+  mem_of_adj ⦃v w⦄ : G.Adj v w → v ∈ s ∧ w ∈ t ∨ v ∈ t ∧ w ∈ s
+
+theorem IsBipartite.symm (h : G.IsBipartite s t) : G.IsBipartite t s where
+  disjoint := h.disjoint.symm
+  mem_of_adj v w hadj := by
+    rw [@and_comm (v ∈ t) (w ∈ s), @and_comm (v ∈ s) (w ∈ t)]
+    exact h.mem_of_adj hadj.symm
+
+theorem isBipartite_comm :
+  G.IsBipartite s t ↔ G.IsBipartite t s := ⟨IsBipartite.symm, IsBipartite.symm⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:55]:
```suggestion
theorem isBipartite_comm : G.IsBipartite s t ↔ G.IsBipartite t s := 
  ⟨IsBipartite.symm, IsBipartite.symm⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 3]
```diff
@@ -0,0 +1,241 @@
...
+
+/-- If `G.IsBipartite s t` and `v ∈ s`, then if `v` is adjacent to `w` in `G` then `w ∈ t`. -/
+theorem IsBipartite.mem_of_mem_adj (h : G.IsBipartite s t) (hv : v ∈ s) :
+    G.Adj v w → w ∈ t := by
+  intro hadj
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:60]:
```suggestion
theorem IsBipartite.mem_of_mem_adj (h : G.IsBipartite s t) (hv : v ∈ s) (hadj : G.Adj v w) :
    w ∈ t := by
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 4]
```diff
@@ -0,0 +1,241 @@
...
+
+/-- If `G.IsBipartite s t` and `v ∈ s`, then the neighbor set of `v` is disjoint to `s`. -/
+theorem isBipartite_neighborSet_disjoint (h : G.IsBipartite s t) (hv : v ∈ s) :
+    Disjoint (G.neighborSet v) s :=
+  Set.disjoint_of_subset_left (isBipartite_neighborSet_subset h hv) h.disjoint.symm
+
+/-- If `G.IsBipartite s t` and `w ∈ t`, then if `v` is adjacent to `w` in `G` then `v ∈ s`. -/
+theorem IsBipartite.mem_of_mem_adj' (h : G.IsBipartite s t) (hw : w ∈ t) :
+    G.Adj v w → v ∈ s := by
+  intro hadj
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:87]: as before

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 5]
```diff
@@ -0,0 +1,241 @@
...
+theorem isBipartite_neighborSet_disjoint' (h : G.IsBipartite s t) (hw : w ∈ t) :
+    Disjoint (G.neighborSet w) t :=
+  Set.disjoint_of_subset_left (isBipartite_neighborSet_subset' h hw) h.disjoint
+
+variable [Fintype V] {s t : Finset V} [DecidableRel G.Adj]
+
+/-- If `G.IsBipartite s t` and `v ∈ s`, then the neighbor finset of `v` is the set of vertices in
+`s` adjacent to `v` in `G`. -/
+theorem isBipartite_neighborFinset (h : G.IsBipartite s t) (hv : v ∈ s) :
+    G.neighborFinset v = t.filter (G.Adj v ·) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:122]:
```suggestion
    G.neighborFinset v = {x ∈ t | G.Adj v x} := by
```
and similar for other uses of `filter` below.

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 6]
```diff
@@ -0,0 +1,241 @@
...
+  rw [←card_neighborFinset_eq_degree]
+  exact card_le_card (isBipartite_neighborFinset_subset' h hw)
+
+/-- If `G.IsBipartite s t`, then the sum of the degrees of vertices in `s` is equal to the sum of
+the degrees of vertices in `t`.
+
+See `sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow`. -/
+theorem isBipartite_sum_degrees_eq (h : G.IsBipartite s t) :
+    ∑ v ∈ s, G.degree v = ∑ w ∈ t, G.degree w := by
+  simp_rw [←sum_attach t, ←sum_attach s, ←card_neighborFinset_eq_degree]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:191]:
```suggestion
  simp_rw [← sum_attach t, ← sum_attach s, ← card_neighborFinset_eq_degree]
```

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 7]
```diff
@@ -0,0 +1,241 @@
...
+  simp_rw [sum_attach s fun w ↦ #(bipartiteAbove G.Adj t w),
+    sum_attach t fun v ↦ #(bipartiteBelow G.Adj s v)]
+  exact sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow G.Adj
+
+variable [DecidableEq V]
+
+/-- The degree-sum formula only counting over the vertices that form edges.
+
+See `SimpleGraph.sum_degrees_eq_twice_card_edges`. -/
+theorem sum_degrees_support_eq_twice_card_edges :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:207]: I think `sum_degrees_support_eq_twice_card_edges` should be in the same file as `sum_degrees_eq_twice_card_edges`

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 8]
```diff
@@ -0,0 +1,241 @@
...
+    ∑ v ∈ s ∪ t, G.degree v = 2 * #G.edgeFinset := by
+  have hsub : G.support ⊆ ↑s ∪ ↑t := isBipartite_support_subset h
+  rw [←coe_union, ←Set.toFinset_subset] at hsub
+  rw [←Finset.sum_subset hsub, ←sum_degrees_support_eq_twice_card_edges]
+  intro v _ hv
+  rwa [Set.mem_toFinset, ←degree_eq_zero_iff_not_mem_support] at hv
+
+/-- The degree-sum formula for bipartite graphs.
+
+See `SimpleGraph.sum_degrees_eq_twice_card_edges`. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:226]:
```suggestion
/-- The degree-sum formula for bipartite graphs, summing over the "left" part.

See `SimpleGraph.sum_degrees_eq_twice_card_edges` for the general version, and `SimpleGraph.isBipartite_sum_degrees_eq_card_edges'` for the version from the "right". -/
```
and similar for the other version

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 9]
```diff
@@ -219,6 +219,10 @@ theorem card_neighborSet_eq_degree : Fintype.card (G.neighborSet v) = G.degree v
 theorem degree_pos_iff_exists_adj : 0 < G.degree v ↔ ∃ w, G.Adj v w := by
   simp only [degree, card_pos, Finset.Nonempty, mem_neighborFinset]
 
+theorem degree_eq_zero_iff_not_mem_support : G.degree v = 0 ↔ v ∉ G.support := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:222]: Can you also add a version saying the degree is positive if and only if v is in the support

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 10]
```diff
@@ -435,4 +439,58 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+
+lemma card_support_le [Fintype V] [Fintype G.support] :
+    Fintype.card G.support ≤ Fintype.card V :=
+  Fintype.card_le_of_injective Subtype.val Subtype.val_injective
+
+variable {s : Set V} [DecidablePred (· ∈ s)] [Fintype V] {G : SimpleGraph V} [DecidableRel G.Adj]
+
+instance : DecidablePred (· ∈ G.support) := by
+  unfold support Rel.dom
+  infer_instance
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:452]:
```suggestion
instance : DecidablePred (· ∈ G.support) := inferInstanceAs (· ∈ Rel.dom _)
```
(untested, but if it fails then `inferInstanceAs` is still a better way of doing this)

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 11]
```diff
@@ -435,4 +439,58 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+
+/-- If the support of the simple graph `G` is a subset of the set `s`, then the induced subgraph of
+`s` has the same number of edges as `G`. -/
+theorem card_edgeFinset_induce_of_support_subset (h : G.support ⊆ s) :
+    #(G.induce s).edgeFinset = #G.edgeFinset := by
+  apply card_bij (fun e _ ↦ e.map (↑))
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:458]: Is this easier with `card_nbij`?

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 12]
```diff
@@ -435,4 +439,58 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+theorem card_edgeFinset_induce_support :
+    #(G.induce G.support).edgeFinset = #G.edgeFinset :=
+  card_edgeFinset_induce_of_support_subset subset_rfl
+
+/-- If the support of the simple graph `G` is a subset of the set `s`, then the degree of vertices
+in the induced subgraph of `s` are the same as in `G`. -/
+theorem degree_induce_of_support_subset (h : G.support ⊆ s) (v : s) :
+    (G.induce s).degree v = G.degree v := by
+  simp_rw [←card_neighborFinset_eq_degree]
+  apply card_bij (fun v _ ↦ ↑v) (by simp) (by simp)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:483]: as before

**Review by b-mehta — APPROVED** [review]
The definitions and theorems here are valuable, thank you. I've made a few comments, mostly stylistic.

**Comment by b-mehta** [comment]
(oops, just realised some of the comments I made should have been on the earlier PR - sorry! - hopefully it's not too bad to transfer?)

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean (hunk 11 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean:458]: Yes!

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean (hunk 10 above)
Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean:452]: I've made these changes on #20825. I'll just rebase this branch on that one. :+1:

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 13]
```diff
@@ -0,0 +1,227 @@
...
+  `G`, instead `s ∪ t` is only required to cover the *support* of `G`, that is, the vertices that
+  form edges in `G`. This definition is equivalent to the expected definition. If `s` and `t` do
+  not cover all the vertices, one recovers a covering of all the vertices by unioning the missing
+  vertices `(s ∪ t)ᶜ` to either `s` or `t`.
+
+* `SimpleGraph.isBipartite_sum_degrees_eq` is the proof that if `G.IsBipartite s t`, then the sum
+  of the degrees of the vertices in `s` is equal to the sum of the degrees of the vertices in `t`.
+
+* `SimpleGraph.isBipartite_sum_degrees_eq_card_edges` is the proof that if `G.IsBipartite s t`,
+  then sum of the degrees of the vertices in `s` is equal to the number of edges in `G`.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:30]: Let's add a reference here to the formulation of double-counting not in terms of bipartite graphs (and the other way round).

File: Mathlib/Combinatorics/SimpleGraph/Bipartite.lean [hunk 14]
```diff
@@ -0,0 +1,227 @@
...
+
+namespace SimpleGraph
+
+variable {V : Type*} {v w : V} {G : SimpleGraph V} {s t : Set V}
+
+section IsBipartite
+
+/-- `G` is bipartite in sets `s` and `t` iff `s` and `t` are disjoint and if vertices `v` and `w`
+are adjacent in `G` then `v ∈ s` and `w ∈ t`, or `v ∈ t` and `w ∈ s`. -/
+structure IsBipartite (G : SimpleGraph V) (s t : Set V) : Prop where
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Bipartite.lean:44]: I'd call this `IsBipartiteWith`, since it also says what the two parts are. (Then `G.IsBipartite could be the fact that the graph is 2-colourable, eg)

**Review by b-mehta — APPROVED** [review]
This is very nice, thank you!

bors d+
